US09260436B2
0.70 g of 3-chloroperbenzoic acid (purity of 65% or more) was added to a mixture of 0.35 g of 6-(2-ethylsulfanylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine and 10 ml of chloroform under ice cooling, and then the mixture was stirred at room temperature for 4 hours. A 10% aqueous sodium thiosulfate solution and a saturated aqueous sodium bicarbonate solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate and then dried with anhydrous sodium sulfate. The mixture was concentrated under reduced pressure, and the resulting residue was applied to a silica gel column chromatography to obtain 0.31 g of 6-(2-ethylsulfonylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine (Compound of Present Invention 25).

reactant | 3-chloroperbenzoic acid | 0.70 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-(2-ethylsulfanylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.35 g | C(C)SC1=C(C=CC=C1)C=1C=C2C(=NC1)N(C(=N2)C(F)(F)F)C | C16H14F3N3S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(2-ethylsulfonylphenyl)-3-methyl-2-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.31 g | C(C)S(=O)(=O)C1=C(C=CC=C1)C=1C=C2C(=NC1)N(C(=N2)C(F)(F)F)C | C16H14F3N3O2S
